US09119396B2
Then, 254 mg of oxalyl chloride was added to a mixture of 400 mg of 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylic acid and 20 ml of ethanol while ice-cooling, and the mixture was stirred for 6 hours under reflux. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. To the residue was added chloroform, and then the organic layer was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain 330 mg of ethyl 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate (the present compound 5).

reactant | oxalyl chloride | 254 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylic acid | 400 mg | FC(C1=CC2=C(SC(=C2)C(=O)O)C=C1)(F)F | C10H5F3O2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate | 330 mg | FC(C1=CC2=C(SC(=C2)C(=O)OCC)C=C1)(F)F | C12H9F3O2S
